US06335445B1
2.1) 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(4-nitrophenyl)methyl]-benzamide
1.88 g (10 mmoles) of p-nitrobenzylamine hydrochloride, 2.5 g (10 mmoles) of 3,5-di-tert-butyl-4-hydroxybenzoic acid, 1.38 ml (10 mmoles) of triethylamine and 2.26 g (11 mmoles) of dicyclohexylcarbodiimide are introduced into a 250 ml flask containing 25 ml of THF. The reaction medium is agitated for 15 hours at ambient temperature, the precipitate which appears is filtered out and rinsed with the minimum quantity of ethyl acetate. After concentration of the solution under reduced pressure, the residue is precipitated from a mixture of ethyl acetate/diethyl ether (1/4) and filtered. The crystals are washed abundantly with diethyl ether in order to finally produce, after drying, a white powder with a yield of 74% (2.85 g). Melting point: 230-231° C.

reactant | p-nitrobenzylamine hydrochloride | 10 mmoles, 1.88 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | 3,5-di-tert-butyl-4-hydroxybenzoic acid | 10 mmoles, 2.5 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | triethylamine | 10 mmoles, 1.38 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 11 mmoles, 2.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(4-nitrophenyl)methyl]-benzamide | yield of 74% | CC(C)(C)C=1C=C(C(=O)NCC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1O)C(C)(C)C | C22H28N2O4
